### PR TITLE
[Merged by Bors] - chore: adaptations for nightly-2024-07-19

### PR DESCRIPTION
**Pull request by jcommelin**

### CODE REVIEW

File: Mathlib/Algebra/Group/Fin/Basic.lean [hunk 1]
```diff
@@ -9,6 +9,7 @@ import Mathlib.Data.Nat.Cast.Defs
 import Mathlib.Data.Nat.Defs
 import Mathlib.Data.Fin.Basic
 
+
```
Comment (semorrison) [inline Mathlib/Algebra/Group/Fin/Basic.lean:12]:
```suggestion
```

File: Mathlib/Algebra/Lie/Basic.lean [hunk 2]
```diff
@@ -8,6 +8,7 @@ import Mathlib.Algebra.Module.Equiv.Basic
 import Mathlib.Data.Bracket
 import Mathlib.Tactic.Abel
 
+
```
Comment (semorrison) [inline Mathlib/Algebra/Lie/Basic.lean:11]:
```suggestion
```

File: Mathlib/Algebra/Module/Equiv/Defs.lean [hunk 3]
```diff
@@ -6,6 +6,7 @@ Authors: Nathaniel Thomas, Jeremy Avigad, Johannes Hölzl, Mario Carneiro, Anne
 -/
 import Mathlib.Algebra.Module.LinearMap.Defs
 
+
```
Comment (semorrison) [inline Mathlib/Algebra/Module/Equiv/Defs.lean:9]:
```suggestion
```

File: Mathlib/Algebra/Module/LinearMap/Defs.lean [hunk 4]
```diff
@@ -8,6 +8,7 @@ import Mathlib.Algebra.Module.Defs
 import Mathlib.Algebra.Ring.CompTypeclasses
 import Mathlib.GroupTheory.GroupAction.Hom
 
+
```
Comment (semorrison) [inline Mathlib/Algebra/Module/LinearMap/Defs.lean:11]:
```suggestion
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 5]
```diff
@@ -11,6 +11,7 @@ import Mathlib.Data.Finsupp.Antidiagonal
 import Mathlib.Order.SymmDiff
 import Mathlib.RingTheory.Adjoin.Basic
 
+
```
Comment (semorrison) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:14]:
```suggestion
```

File: Mathlib/Algebra/Ring/Commute.lean [hunk 6]
```diff
@@ -8,6 +8,7 @@ import Mathlib.Algebra.Ring.Units
 import Mathlib.Algebra.Group.Commute.Defs
 import Mathlib.Data.Bracket
 
+
```
Comment (semorrison) [inline Mathlib/Algebra/Ring/Commute.lean:11]:
```suggestion
```

File: Mathlib/Data/List/Forall2.lean [hunk 7]
```diff
@@ -24,6 +24,7 @@ open Relator
 
 mk_iff_of_inductive_prop List.Forall₂ List.forall₂_iff
 
+
```
Comment (semorrison) [inline Mathlib/Data/List/Forall2.lean:27]:
```suggestion
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 8]
```diff
@@ -785,6 +785,7 @@ theorem strongDownwardInductionOn_eq {p : Multiset α → Sort*} (s : Multiset 
   dsimp only [strongDownwardInductionOn]
   rw [strongDownwardInduction]
 
+
```
Comment (semorrison) [inline Mathlib/Data/Multiset/Basic.lean:788]:
```suggestion
```

File: Mathlib/Data/NNReal/Basic.lean [hunk 9]
```diff
@@ -794,6 +791,7 @@ end Sub
 
 section Inv
 
+
```
Comment (semorrison) [inline Mathlib/Data/NNReal/Basic.lean:794]:
```suggestion
```

File: Mathlib/Data/Set/Basic.lean [hunk 10]
```diff
@@ -1729,6 +1726,7 @@ end
 
 /-! ### Powerset -/
 
+
```
Comment (semorrison) [inline Mathlib/Data/Set/Basic.lean:1729]:
```suggestion
```

File: Mathlib/Data/Subtype.lean [hunk 11]
```diff
@@ -28,6 +28,8 @@ namespace Subtype
 
 variable {α β γ : Sort*} {p q : α → Prop}
 
+
+
```
Comment (semorrison) [inline Mathlib/Data/Subtype.lean:32]:
```suggestion
```

File: Mathlib/GroupTheory/Sylow.lean [hunk 12]
```diff
@@ -349,6 +346,7 @@ noncomputable def Sylow.equivQuotientNormalizer [Fact p.Prime] [Finite (Sylow p
     _ ≃ G ⧸ stabilizer G P := orbitEquivQuotientStabilizer G P
     _ ≃ G ⧸ (P : Subgroup G).normalizer := by rw [P.stabilizer_eq_normalizer]
 
+
```
Comment (semorrison) [inline Mathlib/GroupTheory/Sylow.lean:349]:
```suggestion
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 13]
```diff
@@ -1128,6 +1125,7 @@ theorem toMatrix'_comp (Q : QuadraticMap R (m → R) R) (f : (n → R) →ₗ[R]
   ext
   simp only [QuadraticMap.associated_comp, LinearMap.toMatrix₂'_compl₁₂, toMatrix']
 
+
```
Comment (semorrison) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1128]:
```suggestion
```

File: Mathlib/MeasureTheory/MeasurableSpace/Defs.lean [hunk 14]
```diff
@@ -111,6 +111,7 @@ protected theorem MeasurableSet.iUnion [Countable ι] ⦃f : ι → Set α⦄
     rw [← iUnion_congr_of_surjective _ he (fun _ => rfl)]
     exact m.measurableSet_iUnion _ fun _ => h _
 
+
```
Comment (semorrison) [inline Mathlib/MeasureTheory/MeasurableSpace/Defs.lean:114]:
```suggestion
```

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 15]
```diff
@@ -122,6 +122,7 @@ namespace Submodule
 
 variable {α β : Type*} [TopologicalSpace β]
 
+
```
Comment (semorrison) [inline Mathlib/Topology/Algebra/Module/Basic.lean:125]:
```suggestion
```

File: Mathlib/Topology/PartialHomeomorph.lean [hunk 16]
```diff
@@ -1116,6 +1110,7 @@ theorem to_openEmbedding (h : e.source = Set.univ) : OpenEmbedding e :=
   e.openEmbedding_restrict.comp
     ((Homeomorph.setCongr h).trans <| Homeomorph.Set.univ X).symm.openEmbedding
 
+
```
Comment (semorrison) [inline Mathlib/Topology/PartialHomeomorph.lean:1113]:
```suggestion
```

**Comment by semorrison** [comment]
Let's wait for #14888

bors d+
